US06881728B1
—Vinylmagnesium chloride in tetrahydrofuran (2 M, 159.2 ml) was added dropwise to a mixture of (17β)-17-(acetyloxy)estra-4,6-diene-3-one [Syntex, DE 1143199 (1963); 50.0 g], copper(I) bromide-dimethyl sulfide complex (3.18 g), lithium bromide (1.38 g), and lithium thiophenoxide (16 ml of a 1 M solution in tetrahydrofuran), in dry tetrahydrofuran (167 ml), cooled to −15° C. After 30 min. stirring a saturated aqueous solution of ammonium chloride was added and the product extracted into ethyl acetate. The combined organic phases were concentrated under reduced pressure whereafter the residue was dissolved in acetone (1000 ml) and treated with hydrochloric acid (4 M, 100 ml). After 30 min. stirring at room temperature, the mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate. Part of the acetone was removed under reduced pressure and the product was extracted into ethyl acetate. The combined organic phases were washed with brine, dried over sodium sulfate and concentrated under reduced pressure, to give (7α,17β)-17-(acetyloxy)-7-ethenylestr-4-en-3-one (59.4 g). The product was used in the following step without further purification.

reactant | (17β)-17-(acetyloxy)estra-4,6-diene-3-one | 50.0 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C=CC3=CC(CC[C@@H]3[C@H]1CC2)=O | C20H26O3
reactant | lithium bromide | 1.38 g | [Br-].[Li+]
reactant | lithium thiophenoxide | [S-]C1=CC=CC=C1.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 M, 159.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 167 ml | O1CCCC1 | C4H8O
product | (7α,17β)-17-(acetyloxy)-7-ethenylestr-4-en-3-one | 59.4 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1CC2)=O)C=C | C22H30O3
